US08389527B2
6-((trans)-4-aminocyclohexylamino)-N-phenyl-8-(phenylamino)imidazo[1,2-b]pyridazine-3-carboxamide
In a 2 dram reaction vial containing acetonitrile (1 mL) at ambient temperature was added 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid (0.025 g, 0.06 mmol), aniline (0.008 g, 0.09 mmol), EDCI (0.018 g, 0.09 mmol), HOBt (0.012 g, 0.09 mmol), and triethylamine (0.025 mL, 0.18 mmol). The suspension was stirred overnight at room temperature. The reaction mixture was then concentrated in vacuo and the residue mixed with trans-1,4-diaminocyclohexane (0.5 g, 4.39 mmol) and heated to 160° C. for 5 h. After cooling to room temperature, the reaction mixture was diluted with DCM/water and the layers separated. The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in DCM (1 mL) at room temperature and charged with TFA (1 mL). The mixture stirred 3 h, whereupon the volatiles were removed via a stream of nitrogen and the crude mixture was purified via preparative HPLC (Waters Sunfire column 5u, 100 A, 19×100 mm, 20-100% Solvent B, (Solvent A (90% water, 10% methanol, 0.1% TFA), Solvent B (10% water, 90% methanol, 0.1% TFA), 10 min gradient, 10 minute run, 25 mL/min), affording the title compound, 6-((trans)-4-aminocyclohexylamino)-N-phenyl-8-(phenylamino)imidazo[1,2-b]pyridazine-3-carboxamide. HPLC: Rt=3.02 min. (Waters sunfire 4.6×50 mm C18.5 um 4 min/1 min hold time 0-100% (A-B) A=10% MeOH-90% water-0.1% TFA, B=90% MeOH-10% water-0.1% TFA). MS: [M+H]=442.

reactant | 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid | 0.06 mmol, 0.025 g | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)O)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C21H17ClN4O3
reactant | aniline | 0.09 mmol, 0.008 g | NC1=CC=CC=C1 | C6H7N
reactant | EDCI | 0.09 mmol, 0.018 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.09 mmol, 0.012 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.18 mmol, 0.025 mL | C(C)N(CC)CC | C6H15N
reactant | trans-1,4-diaminocyclohexane | 4.39 mmol, 0.5 g | N[C@@H]1CC[C@H](CC1)N | C6H14N2
solvent | DCM water | C(Cl)Cl.O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 6-((trans)-4-aminocyclohexylamino)-N-phenyl-8-(phenylamino)imidazo[1,2-b]pyridazine-3-carboxamide | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=CC=C2)NC2=CC=CC=C2 | C25H27N7O
